US09353107B2
Step-ii: N-(2-methoxy-5-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-methoxyphenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (60 mg, 0.219 mmol) was deprotected in HCl in ether/MeOH (1/3 ml) to afford 13 mg (29% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.78 (s, 2H), 8.53 (s, 2H), 8.42-8.37 (m, 2H), 8.02 (s, 1H), 8.00-7.94 (m, 1H), 7.77-7.76 (m, 2H), 7.62-7.59 (dd, 1H), 7.24-7.21 (d, 1H), 5.66 (s, 2H), 3.98 (s, 3H), 2.99 (s, 3H). MS: m/z=475.1 (M+1), HPLC: 97.36% in method A.

reactant | tert-butyl 5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-methoxyphenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.219 mmol, 60 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C(C=CC1OC)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC=2C=NC=CC2)C(=O)OC(C)(C)C | C34H38N6O7S
solvent | HCl | Cl | ClH
solvent | ether MeOH | 1/3 ml | CCOCC.CO
product | N-(2-methoxy-5-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 13 mg, 29% yield | COC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC=2C=NC=CC2)NS(=O)(=O)C | C24H22N6O3S
